US06921763B2
2-Fluoro-4-(trifluoromethyl)-1-benzenecarbonyl chloride (3.05 mL, 20.2 mmol) in dichloromethane (25 mL) was added to a solution of tert-butyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (8.77 g, 20.0 mmol) in pyridine (50 mL) at 0° C. After 5 minutes, the ice water bath was removed and the reaction mixture stirred at room temperature for 1 hours. 2-Fluoro-4-(trifluoromethyl)-1-benzenecarbonyl chloride (0.5 mL, 3.31 mmol) was added and the reaction mixture was stirred for addition 30 minutes. The solvent was evaporated and the residue was dissolved in dichloromethane. The organic layer was washed with water, brine then dried over MgSO4. The solvent was evaporated and the residue was purified by flash column chromatography using ethyl acetate/dichloromethane (80:20 to 100:0) as mobile phase to give tert-Butyl 4-[4-amino-3-(4-[2-fluoro-4-(trifluoromethyl)benzoyl]amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (11.2 g, 89%). 1H NMR (CDCl3-d) δ 1.48 (s, 9H), 2.04 (m, 2H), 2.30 (m, 2H), 2.98 (m, 2H), 4.05 (s, 3H), 4.32 (m, 2H), 4.95 (m, 1H), 5.89 (bs, 2H), 7.33 (m, 2H), 7.51 (d, J=11.62 Hz, 1H), 7.61 (d, J=8.21 Hz, 1H), 8.36 (m, 2H), 8.72 (d, J=8.18 Hz, 1H), 9.32 (d, J=14.39 Hz, 1H).

reactant | 2-Fluoro-4-(trifluoromethyl)-1-benzenecarbonyl chloride | 20.2 mmol, 3.05 mL | FC1=C(C=CC(=C1)C(F)(F)F)C(=O)Cl | C8H3ClF4O
reactant | tert-butyl 4-[4-amino-3-(4-amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 20.0 mmol, 8.77 g | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)N)OC)C2CCN(CC2)C(=O)OC(C)(C)C | C22H29N7O3
reactant | 2-Fluoro-4-(trifluoromethyl)-1-benzenecarbonyl chloride | 3.31 mmol, 0.5 mL | FC1=C(C=CC(=C1)C(F)(F)F)C(=O)Cl | C8H3ClF4O
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-[4-amino-3-(4-[2-fluoro-4-(trifluoromethyl)benzoyl]amino-3-methoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 11.2 g, 89% | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(C2=C(C=C(C=C2)C(F)(F)F)F)=O)OC)C2CCN(CC2)C(=O)OC(C)(C)C | C30H31F4N7O4
